US08486967B2
Prepared in analogy to example 262 step a-b), starting from N-(pyridin-2-yl)pivalamide and 4-(trifluoromethyl)cyclohexanone. 3-(4-Trifluoromethyl-cyclohex-1-enyl)-pyridin-2-ylamine was obtained after column chromatography on silica gel using a gradient from CH2Cl2 to CH2Cl2/MeOH 19:1 (v/v) as eluent as a white solid (yield: 26% over 2 steps).

reactant | N-(pyridin-2-yl)pivalamide | N1=C(C=CC=C1)NC(C(C)(C)C)=O | C10H14N2O
reactant | 4-(trifluoromethyl)cyclohexanone | FC(C1CCC(CC1)=O)(F)F | C7H9F3O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 3-(4-Trifluoromethyl-cyclohex-1-enyl)-pyridin-2-ylamine | yield: 26% | FC(C1CC=C(CC1)C=1C(=NC=CC1)N)(F)F | C12H13F3N2
